US07157447B2
N-(4-Fluoro-2-(5-methyl-1,3,4-thiadiazol-2-ylamino)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and N-(2-(aminomethyl)-5-fluorophenyl)-5-methyl-1,3,4-thiadiazol-2-amine, derived from reduction of intermediate 124, 4-fluoro-2-(5-methyl-1,3,4-thiadiazol-2-ylamino)benzonitrile. LCMS (+ESI, M+H+) m/z 551.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | N-(2-(aminomethyl)-5-fluorophenyl)-5-methyl-1,3,4-thiadiazol-2-amine | NCC1=C(C=C(C=C1)F)NC=1SC(=NN1)C | C10H11FN4S
product | N-(4-Fluoro-2-(5-methyl-1,3,4-thiadiazol-2-ylamino)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)NC=1SC(=NN1)C | C27H27FN6O4S
